US04803280
A mixture of 20.5 g of 2-(3,3-dimethyl-1-thioxobutyl)hydrazinecarboxylic acid, methyl ester, 12.92 g of methyl acrylate, 1 ml of triethylamine and 300 ml of dry benzene was heated at reflux for 8 hours, then cooled and concentrated in vacuo. The residual oil was chromatographed through a bed of hydrous magnesium silicate, eluting with dichloromethane and evaporated, giving 27 g of (Z)-[1-[(3-methoxy-3-oxopropyl)thio]-3,3-dimethylbutylidene]hydrazinecarboxylic acid, methyl ester.

reactant | 2-(3,3-dimethyl-1-thioxobutyl)hydrazinecarboxylic acid, methyl ester | 20.5 g | CC(CC(=S)NNC(=O)OC)(C)C | C8H16N2O2S
reactant | methyl acrylate | 12.92 g | C(C=C)(=O)OC | C4H6O2
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | (Z)-[1-[(3-methoxy-3-oxopropyl)thio]-3,3-dimethylbutylidene]hydrazinecarboxylic acid, methyl ester | 27 g | COC(CCS\C(\CC(C)(C)C)=N/NC(=O)OC)=O | C12H22N2O4S
